US04272507
15.9 g (0.1 mole) of 4-oxotetrahydro-3-thiophencarboxylic acid methyl ester, 17.5 g of 2,6-dichloroaniline and 200 mg of p-toluenesulfonic acid are heated in 500 ml of dichloroethane for six hours using a water separator. The solution is cooled to -25° and 52.5 g of bromine in 100 ml of dichloroethane are added dropwise. The mixture is stirred for a further 5 minutes; 100 ml of 10 percent strength (aq) sodium sulfite solution are added thereto, and the organic phase is separated off, washed with water and a sodium carbonate solution, dried and concentrated. Pure 4-(2,6-dichloroanilino)-3-thiophencarboxylic acid methyl ester is obtained after a bulb tube distillation (bp. 140°/10-2Pascal).

reactant | 4-oxotetrahydro-3-thiophencarboxylic acid methyl ester | 0.1 mole, 15.9 g | COC(=O)C1CSCC1=O | C6H8O3S
reactant | 2,6-dichloroaniline | 17.5 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | bromine | 52.5 g | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloroethane | 500 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 4-(2,6-dichloroanilino)-3-thiophencarboxylic acid methyl ester | COC(=O)C1=CSC=C1NC1=C(C=CC=C1Cl)Cl | C12H9Cl2NO2S
